Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
Pacemaker placement ___

 
History of Present Illness:
Mr ___ is a ___ y/o M with PMH significant for hyperlipidemia
and rheumatic heart disease who presents with slow heart rates.

About 1 week ago the patient notes that he developed worsening
malaise.  He checked his heart rate at this time and noted that
his heart rate was in the low ___.  He has a heart rate that
typically runs in the ___ but this was lower than usual for him. 

He is otherwise been healthy and lives an active lifestyle.  He
denies any lightheadedness, dizziness, syncope at home.

He visited his primary care doctor who ordered an EKG that 
showed
bradycardia with concern for heart block.  He was then referred
to the ___ emergency room.  In the ED, an EKG revealed 
complete
heart block.  He was started on dopamine and then sent 
emergently
for pacemaker placement, which was done successfully.

Post procedure, patient is feeling well.  He denies any chest
pain, dyspnea, palpitations at this time.
 
REVIEW OF SYSTEMS:  
10 point ROS completed and negative except as above
 
Past Medical History:
Rheumatic heart disease
Hyperlipidemia
 
Social History:
___
Family History:
Non-contributory to presenting complaint.
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=====================  
___ 2100 BP: 137/75 HR: 60 RR: 20 O2 sat: 96% O2 delivery:
RA 
GEN: Well appearing, NAD
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD. 
LUNGS: CTAB
HEART: RRR, nl S1, S2. I/VI SEM.  Pacemaker site C/D/I
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. WWP.
SKIN: No rashes.
NEURO: AOx3

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 725)
    Temp: 97.9 (Tm 98.5), BP: 160/87 (135-160/75-90), HR: 60, 
RR:
18 (___), O2 sat: 95% (94-96), O2 delivery: Ra, Wt: 184
lb/83.46 kg  
 GEN: Well appearing, NAD
NECK: No JVD. 
LUNGS: CTAB
HEART: RRR, nl S1, S2. I/VI SEM.  Pacemaker site C/D/I
EXTREMITIES: No edema. WWP.
NEURO: AOx3
 
Pertinent Results:
ADMISSION LABS
==================

___ 03:01PM   GLUCOSE-96 UREA N-19 CREAT-1.2 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-27 ANION GAP-14
___ 03:01PM   estGFR-Using this
___ 03:01PM   cTropnT-<0.01
___ 03:01PM   proBNP-159
___ 03:01PM   CALCIUM-10.0 PHOSPHATE-3.8 MAGNESIUM-2.2
___ 03:01PM   WBC-7.3 RBC-5.32 HGB-16.0 HCT-50.1 MCV-94 
MCH-30.1 MCHC-31.9* RDW-14.5 RDWSD-50.0*
___ 03:01PM   NEUTS-60.9 ___ MONOS-9.4 EOS-2.2 
BASOS-1.0 IM ___ AbsNeut-4.42 AbsLymp-1.90 AbsMono-0.68 
AbsEos-0.16 AbsBaso-0.07
___ 03:01PM   ___ PTT-28.1 ___
___ 03:01PM   PLT COUNT-194

DISCHARGE LABS
====================
___ 07:00AM BLOOD WBC-7.5 RBC-4.75 Hgb-14.7 Hct-44.4 MCV-94 
MCH-30.9 MCHC-33.1 RDW-14.2 RDWSD-48.7* Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-92 UreaN-17 Creat-1.2 Na-139 
K-4.8 Cl-106 HCO3-24 AnGap-9*
 
Brief Hospital Course:
=======================
SUMMARY STATEMENT
=======================

Mr ___ is a ___ y/o M with PMH significant for rheumatic heart
disease who presented with several weeks of lightheadedness and 
bradycardia, found to have complete heart block. On ___, he 
underwent uncomplicated ___ pacemaker insertion (dual 
chamber pacemaker implantation via the right cephalic vein).

ACUTE ISSUES:
=============

# Complete heart block s/p PPM
Patient with known conduction disease, with prior EKG from ___
showing Wenkebach. Patient's current presentation was likely
progression of his known underlying conduction disease, given
history of heart block and rheumatic heart disease. He is now
status post pacemaker placement. After the procedure, he 
remained hemodynamically stable in sinus rhythm. Device 
interrogation prior to discharge revealed that his pacer 
function is normal with acceptable lead measurements and battery 
status. EKG and CXR were appropriate, revealing correct lead 
placement and appropriate functioning of pacemaker. No evidence 
of pneumothorax, tamponade or other serious complication. He 
will follow-up with Dr. ___ in the next 2 weeks.

#Tick bite. 
During transportation to the hospital before patient was 
evaluated in the ED for his bradycardia, he removed a tick from 
his right torso. On further discussion, patient revealed that 
the tick had been engorged but that it had definitely been 
attached for less than 24 hours. On examination, he did have 
bruising at the area of the bite. Decided to initiate treatment 
with doxycycline 100mg QD for 10 days. He had follow-up with his 
PCP next week.

#History of rheumatic heart disease
Continued home aspirin

===================
TRANSITIONAL ISSUES 
==================== 
DISCHARGE WEIGHT: 84.7 kg
DISCHARGE Cr/BUN: 1.___.
MEDICATION CHANGES: 
- NEW: 
Amlodipine 5 mg daily
Doxycycline 100mg QD

- STOPPED: None
- CHANGED: None

[] Needs to see Dr. ___ 2 weeks. Appointment was 
pending on discharge
[] Started on a 10 day course of doxycycline due to recent 
history of tick bite
[] Started on amlodipine 5mg for hypertension (SBPs in the 
160s). Please uptitrate as tolerated
[] Please continue alcohol cessation counseling as an outpatient 
as patient reported drinking at least 2 drinks a night right 
before he was discharged.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
Take 1 pill of amlodipine 5 mg daily.  
2.  Doxycycline Hyclate 100 mg PO DAILY 
1 tab daily for 10 days  
3.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
------------------
Bradycardia

Secondary diagnosis
------------------
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Mr. ___,  

 It was a pleasure taking care of you at ___ 
___.  
 
WHY WAS I ADMITTED TO THE HOSPITAL?  
 - You were admitted because your heart rate was very slow  
 
WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
 - Your EKG showed that the chambers of your heart were not 
beating together, which is called complete heart block. This was 
causing your heart to beat much slower than usual. In the 
hospital, you had a pacemaker. Additionally, your blood 
pressures were elevated in the hospital, so we started you on an 
antihypertensive agent called amlodipine at a dose of 5 mg. 
-You also mentioned that you had a recent tick bite and we 
started you on an antibiotic called Doxycycline for 10 days. If 
you notice any new rashes, please call your primary care doctor 
right away.
 
WHAT SHOULD I DO WHEN I GO HOME?  
 - You should continue to take your amlodipine 5 mg as 
prescribed.  
 - You should attend the appointments with Dr. ___ your 
primary care doctor, as listed below.  
 - Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  

 We wish you the best!  
 Your ___ Care Team  
 
Followup Instructions:
___